US07157464B2
Synthesis of 4-chloro-3,5-bistrifluoromethyl-1H-pyrazole
Following protocol L, 3,5-bistrifluoromethyl-1H-pyrazole was treated with NCS in CH3CN to yield the title compound.

reactant | 3,5-bistrifluoromethyl-1H-pyrazole | FC(C1=NNC(=C1)C(F)(F)F)(F)F | C5H2F6N2
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CH3CN | CC#N | C2H3N
product | 4-chloro-3,5-bistrifluoromethyl-1H-pyrazole | ClC=1C(=NNC1C(F)(F)F)C(F)(F)F | C5HClF6N2
